US09284271B2
3,4,5-trifluoro-2-iodoaniline was prepared according to method D Step I with iodine (0.621 g; 2.45 mmol), silver sulphate (0.763 g; 2.45 mmol) and 3,4,5-trifluoroaniline (0.360 g; 2.45 mmol) in ethanol (5 mL). The crude residue was purified by flash chromatography on silica gel (eluent 2 to 40% ethyl acetate in heptane) to yield 0.279 g (42%) of 3,4,5-trifluoro-2-iodoaniline as a white solid.

reactant | iodine | 2.45 mmol, 0.621 g | II | I2
reactant | 3,4,5-trifluoroaniline | 2.45 mmol, 0.360 g | FC=1C=C(N)C=C(C1F)F | C6H4F3N
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | silver sulphate | 2.45 mmol, 0.763 g | S(=O)(=O)([O-])[O-].[Ag+2]
product | 3,4,5-trifluoro-2-iodoaniline | 0.279 g, 42% | FC=1C(=C(N)C=C(C1F)F)I | C6H3F3IN
